US08202989B2
3,4-Dimethyl-1,2-phenylenediamine (0.1 mol) was dissolved in acetic acid (70%) and then isatoic anhydride (0.1 mol) was added to the solution. The resulting mixture was heated at 85° C. for 3 hrs. The mixture was poured into ice-cold water and 8,9-dimethyl-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepin-11-one was isolated (97%) by neutralization and filtration.

reactant | 3,4-Dimethyl-1,2-phenylenediamine | 0.1 mol | CC=1C(=C(C=CC1C)N)N | C8H12N2
reactant | isatoic anhydride | 0.1 mol | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8,9-dimethyl-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepin-11-one | CC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=O)C1C | C15H14N2O
